US08563573B2
To a solution of 6-chloro-2-(3,3-dimethyl-but-1-ynyl)-pyridin-3-ylamine (11.5 g, 55.2 mmol) and pyridine (13.1 g, 166 mmol) in CH2Cl2 (150 mL) was added butyryl chloride (6.5 g, 61 mmol) dropwise at 0° C. The mixture was allowed to warm to room temperature and was stirred at this temperature overnight. Water (50 mL) was added dropwise at −0° C. The resulting mixture was extracted with ethyl acetate (100 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give the crude N-[6-chloro-2-(3,3-dimethyl-but-1-ynyl)-pyridin-3-yl]-butyramide (16 g), which was used in the next step without further purification. 1H NMR (CDCl3, 300 MHz) δ 8.72 (d, J=9.0 Hz, 1H), 7.88 (brs, 1H), 7.23 (d, J=8.4 Hz, 1H), 2.40 (d, J=7.2 Hz, 2H), 1.83-1.75 (m, 2H), 1.40 (s, 9H), 1.04 (d, J=7.2 Hz, 3H).

reactant | 6-chloro-2-(3,3-dimethyl-but-1-ynyl)-pyridin-3-ylamine | 55.2 mmol, 11.5 g | ClC1=CC=C(C(=N1)C#CC(C)(C)C)N | C11H13ClN2
reactant | pyridine | 166 mmol, 13.1 g | N1=CC=CC=C1 | C5H5N
reactant | butyryl chloride | 61 mmol, 6.5 g | C(CCC)(=O)Cl | C4H7ClO
reactant | Water | 50 mL | O | H2O
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | N-[6-chloro-2-(3,3-dimethyl-but-1-ynyl)-pyridin-3-yl]-butyramide | 16 g | ClC1=CC=C(C(=N1)C#CC(C)(C)C)NC(CCC)=O | C15H19ClN2O
